US07652044B2
A. N-Cyclopropylmethyl-3-oxo-3-phenyl-propionamide
Ethyl benzoylacetate (621 mg, 3.23 mmol) and cyclopropylmethylamine (0.34 ml, 3.92 mmol) were dissolved in 1,4-dioxane (1 ml). Para-toluenesulfonic acid (3 crystals, catalytic) was added and the mixture heated under microwave irradiation at 150° C. for 30 min. The crude mixture was poured onto a SiO2 column and purified by flash chromatography (eluted with EtOAc 10 to 35% in hexanes). The title compound was isolated as a yellow solid (309 mg, 44%). HPLC (4 minutes gradient) tR 2.04 min; MS m/z 218.0 [M+H]+.

reactant | Ethyl benzoylacetate | 3.23 mmol, 621 mg | C(C1=CC=CC=C1)(=O)CC(=O)OCC | C11H12O3
reactant | cyclopropylmethylamine | 3.92 mmol, 0.34 ml | C1(CC1)CN | C4H9N
reactant | Para-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | 1,4-dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | N-Cyclopropylmethyl-3-oxo-3-phenyl-propionamide | C1(CC1)CNC(CC(C1=CC=CC=C1)=O)=O | C13H15NO2
